US06599890B1
Ozone gas was bubbled through a stirred, cold, (−78° C.) solution of (2R,4R)-4-allyl-2-benzyloxycarbonylamino-pentanedioic acid 1-tert-butyl ester 5-methyl ester (5.0 g, 12.8 mmol) in 100 mL of 10:1 methanol/methylene chloride, and 0.73 mL of acetic acid until a blue color persisted. Nitrogen gas was then bubbled through the solution until the blue color dissipated. The mixture was warmed to ambient temperature and dimethyl sulfide (2.8 mL, 3.83 mmol) was added. The mixture was stirred for 48 hours, diluted with methylene chloride, and washed with 10% aqueous sodium carbonate, brine, and the mixture was dried over sodium sulfate. Filtration and concentration of the filtrate provided (2R,4S)-6-methoxy-piperidine-1,2,4-tricarboxylic acid 1-benzyl ester 2-tert-butyl ester 4-methyl ester as a clear oil, which was used in the subsequent step without purification.

reactant | (2R,4R)-4-allyl-2-benzyloxycarbonylamino-pentanedioic acid 1-tert-butyl ester 5-methyl ester | 12.8 mmol, 5.0 g | COC([C@@H](C[C@H](C(=O)OC(C)(C)C)NC(=O)OCC1=CC=CC=C1)CC=C)=O | C21H29NO6
reactant | acetic acid | 0.73 mL | C(C)(=O)O | C2H4O2
reactant | dimethyl sulfide | 3.83 mmol, 2.8 mL | CSC | C2H6S
solvent | methanol methylene chloride | 100 mL | CO.C(Cl)Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | (2R,4S)-6-methoxy-piperidine-1,2,4-tricarboxylic acid 1-benzyl ester 2-tert-butyl ester 4-methyl ester | COC(=O)[C@H]1C[C@@H](N(C(C1)OC)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C21H29NO7
